US09062136B2
(3Z)-3-(5,5-dimethyl-2-oxo-1,3-dioxolan-4-ylidene)propyl acrylate (exo-VCA)
280 g (1.31 mol) of (3Z)-3-(5,5-dimethyl-2-oxo-1,3-dioxolan-4-ylidene)propyl acetate (exo-VC-OAc), 1307 g (13.1 mol) of ethyl acetate, 0.28 g of 4-methoxyphenol (MeHQ) and 84 g (30% by weight) of Novozym® 435 from Novozymes were combined. The mixture was stirred at 40° C. for 24 h. The mixture was filtered and washed through with acetone, and the solvent was removed at 40° C. on a rotary evaporator. This gave 276.7 g of the product of the title compound with a purity of 92.4% (GC analysis).

reactant | (3Z)-3-(5,5-dimethyl-2-oxo-1,3-dioxolan-4-ylidene)propyl acetate | 1.31 mol, 280 g | C(C)(=O)OCC\C=C\1/OC(OC1(C)C)=O | C10H14O5
reactant | ethyl acetate | 13.1 mol, 1307 g | C(C)(=O)OCC | C4H8O2
reactant | 4-methoxyphenol | 0.28 g | COC1=CC=C(C=C1)O | C7H8O2
product | (3Z)-3-(5,5-dimethyl-2-oxo-1,3-dioxolan-4-ylidene)propyl acrylate | C(C=C)(=O)OCC\C=C\1/OC(OC1(C)C)=O | C11H14O5
